US06977275B2
Solids Limited Preparation of Sorbitol Hexapropionate using MSA as the Catalyst
A 12 L 5-neck round bottom flask was equipped with a thermocouple, a reflux condenser, a motor driven solids feeder and a mechanical stirrer. Propionic anhydride (7501 g, 57.6 moles, 1.16 hydroxyl eqs) and MSA (31.7 g, 0.329 mol, 0.04 sorbitol eqs) were added to the flask and the flask was then flushed with N2. The solution was heated to 90° C. before undried sorbitol (1500 g, 8.23 mol) was fed to the flask at a rate to maintain the reaction temperature at 90-97° C. After all of the sorbitol had been added (4.3 h), the solids feeder was flushed with 381 g propionic anhydride. The reaction was maintained at 90° C. for an additional 1 h before 75 g of carbon powder was added. An additional 900 g of propionic anhydride was added to the reaction mixture and the reaction was heated to 100° C. where it was maintained for an additional 1.8 h. The reaction mixture was concentrated by distillation at 80° C. at ca. 150 mm Hg and approximately 50% of the liquids were removed. The carbon black was removed by filtration. The filtrate was extracted once with 0.5 volumes of water. The layers were separated and the organic layer was distilled at 1 mm Hg to remove water and propionic acid. After distillation, 3826 g (90%) of a liquid with a viscosity of 2.4 poise at 25° C. was obtained. Analysis by 1H NMR and by HPLC indicated that the sample had a DS of 5.27 and that it contained 0.49 wt. % propionic acid. The product had a color of 15 and was suitable for use as a plasticizer.

reactant | Propionic anhydride | 57.6 moles, 7501 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | sorbitol | 8.23 mol, 1500 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | propionic acid | C(CC)(=O)O | C3H6O2
product | Sorbitol Hexapropionate | C(CC)(=O)OC[C@H](OC(CC)=O)[C@@H](OC(CC)=O)[C@H](OC(CC)=O)[C@H](OC(CC)=O)COC(CC)=O | C24H38O12
